US08383642B2
Ethyl (3S)-3-[4-[[4-[(1-methylspiro[indoline-3,4′-piperidine]-1′-yl)methyl]phenyl]methoxy]phenyl]hex-4-ynoate
A mixture of 1-methylspiro[indoline-3,4′-piperidine] (0.0486 g, 0.204 mmol), ethyl (3S)-3-(4-{[4-(bromomethyl)benzyl]oxy}phenyl)hex-4-ynoate (0.100 g, 0.24 mmol), and Cs2CO3 (0.156 g, 0.48 mmol) in DMF (5 mL) is stirred at room temperature for 16 hours. The reaction mixture is diluted with water (30 mL) and extracted with EtOAc (3×25 mL). The combined organic layer is washed with water (3×25 mL) and saturated brine solution (25 mL), dried with a drying agent, filtered, and evaporated to dryness to give a liquid. The crude product is purified by silica gel chromatography (gradient EtOAc/hexane 30%) to give the title compound as a colourless liquid (0.095 g, 73.3%). ESI/MS m/z 537 (M+H)+.

reactant | 1-methylspiro[indoline-3,4′-piperidine] | 0.204 mmol, 0.0486 g | CN1CC2(CCNCC2)C2=CC=CC=C12 | C13H18N2
reactant | ethyl (3S)-3-(4-{[4-(bromomethyl)benzyl]oxy}phenyl)hex-4-ynoate | 0.24 mmol, 0.100 g | BrCC1=CC=C(COC2=CC=C(C=C2)[C@H](CC(=O)OCC)C#CC)C=C1 | C22H23BrO3
reactant | Cs2CO3 | 0.48 mmol, 0.156 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | Ethyl (3S)-3-[4-[[4-[(1-methylspiro[indoline-3,4′-piperidine]-1′-yl)methyl]phenyl]methoxy]phenyl]hex-4-ynoate | 0.095 g, 73.3% | CN1CC2(CCN(CC2)CC2=CC=C(C=C2)COC2=CC=C(C=C2)[C@H](CC(=O)OCC)C#CC)C2=CC=CC=C12 | C35H40N2O3
